US04107307
6-tert-Butyl-8-methyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A mixture of 5.11 gm. of 3-[(2-tert-butyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester and 50 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product, m.p. 198°-200° C.

reactant | 3-[(2-tert-butyl-5-methyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)C(C)(C)C)=O | C12H20N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-tert-Butyl-8-methyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C(C)(C)(C)C1=NC(=C2N1C(NN=C2)=O)C | C10H14N4O
